* ============================================================================
* General-purpose comparators - AutoHV BiCMOS 180, 3.3 V rail
* ----------------------------------------------------------------------------
* Topology (same for all variants): two-stage transconductance comparator with
* a rail-to-rail CMOS output buffer.
*   Stage 1 : differential pair + current-mirror load        (gm, single-ended)
*   Stage 2 : common-source gain stage, self-biased load      (gain + level shift)
*   Stage 3 : CMOS inverter                                    (rail-to-rail digital out)
* Polarity : OUT is HIGH when V(inp) > V(inn)  (non-inverting).
*
* Two input flavours:
*   CMP_NIN - NMOS input pair  -> senses HIGH common mode
*   CMP_PIN - PMOS input pair  -> senses LOW  common mode
*
* Design knobs (per-instance params):
*   IREF   - bias reference current pushed into the bias pin -- ibp_5uA (CMP_NIN) / ibn_5uA (CMP_PIN) (Itail=2*IREF,
*            stage-2 = 4*IREF).
*   WSCALE - width multiplier on the analog (mirror/tail/gain/buffer) devices.
*   WIN/LIN- input-pair base geometry.
*   LANA   - channel length of the mirror/gain/bias devices.
*   FIN    - STAGE-1 MATCHING scale (default 1): multiplies BOTH the input pair
*            and the stage-1 load-mirror W and L together. Keeps W/L (hence Vov,
*            ICMR, gm) fixed; lowers input-referred offset ~1/FIN at the cost of
*            stage-1 area ~FIN^2 (and a mild gain rise from longer L). This is the
*            offset<->area knob: FIN=1 = low-area "normal", FIN>1 = lower-offset.
*   HYSK   - hysteresis current as a fraction of IREF (0 = none). Digital output
*            steers HYSK*IREF into the stage-1 nodes; bounded (HYSK<1), cannot latch.
*
* Sizing principle: ICMR is set by overdrives (current + W/L ratios); input offset
* by absolute gate area (W*L). FIN scales stage-1 area at constant W/L -> offset
* moves, ICMR/gain hold. (An earlier 'WB' bias-mirror-widening knob was removed --
* trimming current / sizing the pair is more area-efficient. See SATURATION_SIGNOFF.md.)
*
* Saturation: every device intended to run in saturation keeps Vds/Vdsat > 1.4
* across process corners, -40/+125 C, and 2.97-3.63 V over the rated ICMR (see
* SATURATION_SIGNOFF.md / run_saturation.py --pvt). The output inverter (Xm7/Xm8)
* and steering switches (Xmha/Xmhb) are excluded (switches).
*
* Bias: CMP_NIN sources IREF into 'ibp_5uA' (from vdd); CMP_PIN sinks IREF out of
*        'ibn_5uA' (to vss).
* Ports:  inp inn out vdd vss <bias>   (<bias> = ibp_5uA for CMP_NIN, ibn_5uA for CMP_PIN)
* Pin-name convention: the bias pin encodes the expected current + sense --
* '5uA' = nominal IREF; 'ibp' = current SOURCED into the block (diode-tied NMOS
* ref, from vdd); 'ibn' = current SUNK out of the block (diode-tied PMOS ref, to
* vss). lp/fast variants drive a different current (1u/10u) into the SAME pin.
* ============================================================================

* ----------------------------------------------------------------------------
* NMOS-input comparator (high common-mode)
* ----------------------------------------------------------------------------
.subckt CMP_NIN inp inn out vdd vss ibp_5uA params: IREF=5u WSCALE=1 WIN=40u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror ---
Xmb   ibp_5uA  ibp_5uA  vss vss NMOS33 W={10u*WSCALE} L={LANA} M=1   ; diode ref (carries IREF)
* --- stage 1: NMOS pair, PMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibp_5uA vss vss NMOS33 W={10u*WSCALE} L={LANA} M=2   ; Itail = 2*IREF
Xm1   n1  inp tail vss NMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vss NMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vdd vdd  PMOS33 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vdd vdd  PMOS33 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibp_5uA vss vss NMOS33 W={10u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vss NMOS33 W={10u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vss NMOS33 W={10u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: PMOS common-source + NMOS current-source load ---
Xm5   o2  n2  vdd vdd  PMOS33 W={80u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibp_5uA  vss vss  NMOS33 W={10u*WSCALE} L={LANA} M=4  ; sink 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS33 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS33 W={10u*WSCALE} L=0.5u M=1
.ends CMP_NIN

* ----------------------------------------------------------------------------
* PMOS-input comparator (low common-mode) - vertical mirror of CMP_NIN
* ----------------------------------------------------------------------------
.subckt CMP_PIN inp inn out vdd vss ibn_5uA params: IREF=5u WSCALE=1 WIN=80u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror (PMOS diode; ref current pulled from ibn_5uA down toward vss) ---
Xmb   ibn_5uA  ibn_5uA  vdd vdd  PMOS33 W={20u*WSCALE} L={LANA} M=1  ; diode ref (carries IREF)
* --- stage 1: PMOS pair, NMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibn_5uA vdd vdd  PMOS33 W={20u*WSCALE} L={LANA} M=2  ; Itail = 2*IREF
Xm1   n1  inp tail vdd PMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vdd PMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vss vss  NMOS33 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vss vss  NMOS33 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibn_5uA vdd vdd PMOS33 W={20u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vdd PMOS33 W={20u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vdd PMOS33 W={20u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: NMOS common-source + PMOS current-source load ---
Xm5   o2  n2  vss vss  NMOS33 W={40u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibn_5uA  vdd vdd  PMOS33 W={20u*WSCALE} L={LANA} M=4  ; source 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS33 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS33 W={10u*WSCALE} L=0.5u M=1
.ends CMP_PIN
